US09326973B2
Neat methanesulfonic acid (1.102 mL, 16.97 mmol) was added to a stirred solution of ethyl 1-((benzyloxy)methyl)-4,4-difluorocyclohexanecarboxylate (106 mg, 0.339 mmol) in DCM (2 mL) and the mixture was stirred at rt for 2 h. The reaction mixture was washed with water, satd. NaHCO3, brine and dried (MgSO4) to afford ethyl 4,4-difluoro-1-(hydroxymethyl)cyclohexanecarboxylate as an oil. 1H NMR (400 MHz, CHLOROFORM-d) δ 4.25 (q, J=7.3 Hz, 2H), 3.67 (s, 2H), 2.28-2.17 (m, 2H), 2.08-1.93 (m, 2H), 1.86-1.80 (m, 2H), 1.67-1.56 (m, 2H), 1.31 (t, J=1.0 Hz, 3H).

reactant | methanesulfonic acid | 16.97 mmol, 1.102 mL | CS(=O)(=O)O | CH4O3S
reactant | ethyl 1-((benzyloxy)methyl)-4,4-difluorocyclohexanecarboxylate | 0.339 mmol, 106 mg | C(C1=CC=CC=C1)OCC1(CCC(CC1)(F)F)C(=O)OCC | C17H22F2O3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | ethyl 4,4-difluoro-1-(hydroxymethyl)cyclohexanecarboxylate | FC1(CCC(CC1)(C(=O)OCC)CO)F | C10H16F2O3
